US04277553
33.5 g of p-dimethoxy benzene, 68.0 g of 1-octadecene and 7.7 g of dry silica alumina were heated at 225°-240° C. for 6 hours. After being allowed to cool, the reaction mixture was extracted with ethyl acetate and filtered. The solvent was distilled off under reduced pressure and the residue was distilled under reduced pressure to give 50.0 g of 2-sec-octadecylhydroquinone dimethyl ether having b.p. 220°-223° C./2.5 mmHg.

reactant | p-dimethoxy benzene | 33.5 g | COC1=CC=C(C=C1)OC | C8H10O2
reactant | 1-octadecene | 68.0 g | C=CCCCCCCCCCCCCCCCC | C18H36
product | 2-sec-octadecylhydroquinone dimethyl ether | 50.0 g | COC1=C(C=C(OC)C=C1)C(C)CCCCCCCCCCCCCCCC | C26H46O2
